US07390814B2
b) 6-(4-Chlorobenzyl)-8-isopropyl-1-(4-methoxybenzenesulfonyl)hexahydropyrazino[1,2-a]pyrimidine-4,7-dione
A solution of 167 mg of 3-(4-chlorophenyl)-N-(2,2-diethoxyethyl)-N-isopropyl-2-[3-(4-methoxybenzenesulfonylamino)propionylamino]propionamide in 3 ml of formic acid is stirred at room temperature for 12 h. The reaction solution is concentrated under reduced pressure, and the residue is separated by HPLC (Knauer Eurospher-100-10-C18, water (0.1% trifluoroacetic acid)/acetonitrile (0.1% trifluoroacetic acid)=80/20→10/90). The desired product is obtained with MW=506.02 (calculated); measured value (M+H)+: 506.34

reactant | 3-(4-chlorophenyl)-N-(2,2-diethoxyethyl)-N-isopropyl-2-[3-(4-methoxybenzenesulfonylamino)propionylamino]propionamide | 167 mg | ClC1=CC=C(C=C1)CC(C(=O)N(C(C)C)CC(OCC)OCC)NC(CCNS(=O)(=O)C1=CC=C(C=C1)OC)=O | C28H40ClN3O7S
solvent | formic acid | 3 ml | C(=O)O | CH2O2
product | 6-(4-Chlorobenzyl)-8-isopropyl-1-(4-methoxybenzenesulfonyl)hexahydropyrazino[1,2-a]pyrimidine-4,7-dione | ClC1=CC=C(CC2C(N(CC3N2C(CCN3S(=O)(=O)C3=CC=C(C=C3)OC)=O)C(C)C)=O)C=C1 | C24H28ClN3O5S
